US04906621
A solution of 40.6 g of 4-(tert-butyl-dimethylsilyloxymethyl)-pyridine and 40 g of m-chloroperbenzoic acid in 500 ml methylene chloride is stirred 16 hours at room temperature. Solution is washed with 2N sodium hydroxide and water, dried sodium sulfate, filtered and concentrated in vacuo to yield 4-(tert-butyldimethylsilyloxymethyl)-pyridine-N-oxide.

reactant | 4-(tert-butyl-dimethylsilyloxymethyl)-pyridine | 40.6 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
reactant | m-chloroperbenzoic acid | 40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-(tert-butyldimethylsilyloxymethyl)-pyridine-N-oxide | [Si](C)(C)(C(C)(C)C)OCC1=CC=[N+](C=C1)[O-] | C12H21NO2Si
